US07060827B2
To a magnetically stirred solution of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine (0.25 g, 0.89 mmol) in ethylene glycol (3.0 mL) under nitrogen at room temperature was added N,N-diisopropylethylamine (0.12 g, 0.89 mmol) followed by 4-butoxyaniline (0.18 g, 1.1 mmol). The reaction mixture was heated to 185° C. for 5 h, cooled to room temperature, and partitioned between water (20 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate (20 mL) and the combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. The crude brown solid was purified by chromatography (silica gel, 2:1 hexanes/ethyl acetate) to afford N2-(4-n-Butyloxyphenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyridinediamine (0.18 g, 49%) as a tan solid: Rf0.66 (silica gel, 4:1 chloroform/ethyl acetate); mp 133–135° C.; 1H NMR (300 MHz, CDCl3) δ 7.89 (d, J=3.2 Hz, 1H), 7.39 (d, J=8.9 Hz, 2H), 7.28 (d, J=2.5 Hz, 1H), 6.95 (dd, J=8.7, 2.5 Hz, 1H) 6.90–6.81 (m, 4H), 6.60 (d, J=2.4 Hz, 1H), 4.27 (s, 4H), 3.94 (t, J=6.5 Hz, 2H), 1.80–1.71 (m, 2H), 1.55–1.42 (m, 2H), 0.97 (t, J=7.3 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 156.3, 155.1, 150.4, 143.6, 142.7, 140.3, 140.0, 139.4, 133.0, 131.7, 121.9, 117.3, 115.0, 114.7, 110.8, 68.2, 64.7, 64.5, 31.6, 19.4, 14.0; IR (ATR) 3356 cm−1; ESI MS m/z 411 [C22H23FN4O3+H]+; HPLC (Method A) >99% (AUC), tR=17.3 min. Anal. Calcd for C22H23FN4O3: C, 64.38; H, 5.65; N, 13.65. Found: C, 62.64; H, 5.59; N, 13.15.

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | 0.89 mmol, 0.25 g | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | N,N-diisopropylethylamine | 0.89 mmol, 0.12 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-butoxyaniline | 1.1 mmol, 0.18 g | C(CCC)OC1=CC=C(N)C=C1 | C10H15NO
solvent | ethylene glycol | 3.0 mL | C(CO)O | C2H6O2
product | N2-(4-n-Butyloxyphenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyridinediamine | 0.18 g, 49% | C(CCC)OC1=CC=C(C=C1)NC1=NC=C(C(=C1)NC1=CC2=C(C=C1)OCCO2)F | C23H24FN3O3
